US04677220
β-Methyl-L-Aspartate Hydrochloride (β-Methyl Ester)
To methanol (500 ml) at 25°, gaseous HCl (0.89 mole) was bubbled into the solution over about 0.5 hr. L-Aspartic acid (0.77 mole) was added rapidly, then the resulting solution was held at 25° C. for 6.5 hrs. The methanol was stripped with an aspirator maintaining the pot temperature below 35° C. The batch became fairly thick when 145 ml (115 g) of methanol remained. Isopropyl acetate (435 ml) was added in about 0.5 hr, then the slurry was cooled to 0°-5° C. and held for 0.5 hr. Solid β-methyl-L-aspartate hydrochloride was collected and washed with 100 ml of isopropyl acetate. Dry wt.=100.2 g (70.6%) m.p. 192°-4°.

reactant | HCl | 0.89 mole | Cl | ClH
reactant | L-Aspartic acid | 0.77 mole | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | Isopropyl acetate | 435 ml | C(C)(=O)OC(C)C | C5H10O2
solvent | methanol | 145 ml, 115 g | CO | CH4O
solvent | methanol | 500 ml | CO | CH4O
product | β-Methyl-L-Aspartate Hydrochloride | Cl.CC([C@H](N)C(=O)O)C(=O)O | InChI=1S/C5H9NO4.ClH/c1-2(4(7)8)3(6)5(9)10;/h2-3H,6H2,1H3,(H,7,8)(H,9,10);1H/t2?,3-;/m0./s1
